US09399623B2
6-Chloro-2-(3-hydroxymethyl-pyrrolidin-1-yl)-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl cyclo hexylmethyl)-amide (84)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid 2,6-Dichloro-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide, DIPEA and 3-(1-hydroxy-methyl)-pyrrolidine. 1H NMR (400 MHz, DMSO-d6): δ 8.49 (t, J=6.16 Hz, 1H), 7.80 (d, J=9.28 Hz, 1H), 7.53-7.47 (m, 2H), 6.94 (d, J=9.32 Hz, 1H), 4.73-4.72 (m, 1H), 4.15 (s, 1H), 3.64-3.49 (m, 2H), 3.47-3.41 (m, 3H), 2.42 (s, 1H), 2.05-2.03 (m, 1H), 1.79-1.60 (m, 2H), 1.60-1.47 (m, 5H), 1.29-1.28 (m, 1H), 1.18-1.17 (m, 1H), 0.84-0.82 (m, 3H), 0.75-0.75 (m, 1H) m/z: 432.2 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid 2,6-Dichloro-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide | O[C@@]1(C[C@H](CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl.ClC1=NC=2C=CC(=C(C2C=C1)C(=O)O)Cl
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(1-hydroxy-methyl)-pyrrolidine | OCC1CNCC1 | C5H11NO
product | 6-Chloro-2-(3-hydroxymethyl-pyrrolidin-1-yl)-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl cyclo hexylmethyl)-amide | O[C@@]1(C[C@H](CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CC(CC1)CO | C23H30ClN3O3
